US06500853B1
A solution was made with 1 eq 2-[1-benzhydryl-2-({[tert -butyl(dimethyl)silyl]oxy}methyl)-5-chloro-1H-indol-3-yl]ethanol and CH2Cl2 (0.12M). Then 0.76 eq of 1,3-bis(diphenylphosphino)propane was added and the solution was cooled to 0° C. under N2. Then 1.3 eq of CBr4 was added to give a light yellow solution. The reaction was allowed to return to room temperature. After three hours and 15 minutes the solvent was removed. Purified using a flash column with silica gel and 1:5 EtOAc/Hexane as eluent to give 1-benzhydryl-3-(2-bromoethyl)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-chloro-1H-indole (yellow-brown gum) in 90% yield.

reactant | 2-[1-benzhydryl-2-({[tert -butyl(dimethyl)silyl]oxy}methyl)-5-chloro-1H-indol-3-yl]ethanol | 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCO)CO[Si](C)(C)C(C)(C)C | C30H36ClNO2Si
reactant | 1,3-bis(diphenylphosphino)propane | 0.76 eq | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | CBr4 | 1.3 eq | C(Br)(Br)(Br)Br | CBr4
solvent | CH2Cl2 | 0.12M | C(Cl)Cl | CH2Cl2
product | 1-benzhydryl-3-(2-bromoethyl)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-chloro-1H-indole | 90% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCBr)CO[Si](C)(C)C(C)(C)C | C30H35BrClNOSi
